US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid [2-(3-methoxy-phenyl)-ethyl]-amide
4-[4-(2-Aminoethyl)anilino]-N-(3-methoxyphenethyl)-1-piperidine-carboxamide formate (0.398 g, 0.899 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.290 g, 0.71 mmol) according to Procedure G to yield (eluant: 20:1 chloroform-methanol) the title compound (0.110 g, 0.14 mmol)

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(3-methoxyphenethyl)-1-piperidine-carboxamide formate | 0.899 mmol, 0.398 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCC2=CC(=CC=C2)OC)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.71 mmol, 0.290 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid [2-(3-methoxy-phenyl)-ethyl]-amide | 0.14 mmol, 0.110 g | COC=1C=C(C=CC1)CCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C32H42N4O5
